US09289510B2
bis(4-cyanothiobenzoyl)disulfide.
Potassium ferricyanide(III) (25 g, 76 mmol) was dissolved in deionized water (300 mL) and added dropwise to the sodium 4-cyanodithiobenzoate via an addition funnel over a period of 1 h under vigorous stirring. The red precipitate was filtered and washed with deionized water until the washings became colorless. The solid was dried in vacuo at room temperature overnight. The product bis(4-cyanothiobenzoyl)disulfide was recrystallized from ethanol.

reactant | sodium 4-cyanodithiobenzoate | C(#N)C1=CC=C(C(=S)[S-])C=C1.[Na+]
solvent | water | 300 mL | O | H2O
product | bis(4-cyanothiobenzoyl)disulfide | C(#N)C1=CC=C(C(=S)SSC(C2=CC=C(C=C2)C#N)=S)C=C1 | C16H8N2S4
